US05338740
B. 2-Butyl-3-{6-[2-(1H-tetrazol-5-yl)-phenyl]-naphthalen-1-yl}-3H-imidazo[4,5-b]pyridine
A mixture of 2-[5-(2-butyl-imidazo[4,5-b]pyridin-3-yl)-naphthalen-2-yl]-benzonitrile (85 mg, 0.21 mmol) and trimethyltin azide (108 mg, 0.50 mmol) in xylene (2.5 mL) was heated under reflux for 17 hours. The reaction mixture was cooled to 23° C. and the solvent was removed in vacuo. The crude residue was dissolved in EtOH (5 mL) and 2N NaOH (5 mL) was added. After 0.5 hour, the reaction mixture was concentrated in vacuo. The residue was dissolved in saturated aqueous NaCl (2 mL) and neutralized with concentrated HOAc. The aqueous solution was extracted with CHCl3 (3×10 mL). The combined extracts were dried (MgSO4) and concentrated in vacuo. The residue was azeotroped with heptane, diluted with EtOAc (1 mL) and hexanes (25 mL). The solid that precipitated was filtered and dried. 1H NMR (250 MHz, d6 -DMSO): d 8.13 (m, 3 H), 7.96 (s, 1 H), 7.65 (m, 6 H), 7.30 (m, 1 H), 7.12 (dd, 1 H), 6.86 (d, 1 H), 2.55 (m, 2 H), 1.63 (m, 2 H), 1.22 (m, 2 H), 0.74 (t, 3 H).

reactant | 2-[5-(2-butyl-imidazo[4,5-b]pyridin-3-yl)-naphthalen-2-yl]-benzonitrile | 0.21 mmol, 85 mg | C(CCC)C1=NC=2C(=NC=CC2)N1C1=C2C=CC(=CC2=CC=C1)C1=C(C#N)C=CC=C1 | C27H22N4
reactant | trimethyltin azide | 0.50 mmol, 108 mg | C[Sn](C)(C)N=[N+]=[N-]
solvent | xylene | 2.5 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Butyl-3-{6-[2-(1H-tetrazol-5-yl)-phenyl]-naphthalen-1-yl}-3H-imidazo[4,5-b]pyridine | C(CCC)C1=NC=2C(=NC=CC2)N1C1=CC=CC2=CC(=CC=C12)C1=C(C=CC=C1)C1=NN=NN1 | C27H23N7
